US05550233
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-[benzyloxycarbonylmethylidenyl]-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
A solution of 0.200 g (0.193 mmole) of 17-ethyl-1-hydroxy-12-[2'-(4"-[benzyloxycarbonylmethylidenyl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-tert-butyldimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone in 5 mL of 10% (48% aqueous HF)-acetonitrile was stirred at room temperature for 8 hr. The reaction was quenched by addition of 5 mL of trimethylethoxy-silane and the solution was concentrated under vacuum. The residue was purified by flash chromatography (silica gel, 1.5 cm×10 cm) using 20% acetoneohexane and the product lyophilized from benzene to afford 0.152 g (85%) of the title compound as a colorless solid; NMR (CDCl3) indicated a 9:1 mixture of olefin isomers; MS (FAB) 921 (M+Li).

reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-[benzyloxycarbonylmethylidenyl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-tert-butyldimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.193 mmole, 0.200 g | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)=CC(=O)OCC2=CC=CC=C2)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C58H89NO13Si
solvent | acetonitrile | C(C)#N | C2H3N
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-[benzyloxycarbonylmethylidenyl]-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.152 g, 85% | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)=CC(=O)OCC2=CC=CC=C2)OC)C)C)O)=O | C52H75NO13
